US08609715B2
Synthesis of 2-(diethylphosphono)butanoic acid tert-butyl ester (M-14)
Diethylphosphonoacetic acid tert-butyl ester (1.0 g, 4.0 mmol) was dissolved in N,N-dimethylformamide (1.4 mL), and 60% sodium hydride (0.17 g, 4.4 mmol) was added at 0° C. After stirring at room temperature for 30 minutes, the reaction mixture was cooled again to 0° C., ethyl iodide (0.33 mL, 4.1 mmol) was added, and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed successively with 0.5N hydrochloric acid, water and saturated brine, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=57/43) to give the title compound (0.92 g, 3.3 mmol, 83%).

reactant | Diethylphosphonoacetic acid tert-butyl ester | 4.0 mmol, 1.0 g | C(C)(C)(C)OC(CP(=O)(OCC)OCC)=O | C10H21O5P
reactant | sodium hydride | 4.4 mmol, 0.17 g | [H-].[Na+]
reactant | ethyl iodide | 4.1 mmol, 0.33 mL | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 1.4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(diethylphosphono)butanoic acid tert-butyl ester | 3.3 mmol, 0.92 g, 83% | C(C)(C)(C)OC(C(CC)P(=O)(OCC)OCC)=O | C12H25O5P
